US06765012B2
A suspension of 0.1385 gms. of [3-(4-methyl-piperazin-1-yl)-propyl]-(4-nitro-phenyl)-amine in 3 mL of ethanol is heated to 50° C. Once dissolution is achieved 0.144 mL hydrazine monohydrate is addded to the solution. A Raney nickel slurry in water is added to the 50° C. solution dropwise, waiting after each addition for the gas evolution to cease. Sufficient quantities of Raney nickel have been added when continued addition of Raney nickel causes no further gas evolution. The reaction is then maintained at 50° C. for an additional hour, and subsequently is cooled to room temperature. The reaction mixture is filtered through a pad of celite (rinsing the pad with methanol). N-[3-(4-Methyl-piperazin-1-yl)-propyl]-benzene-1,4-diamine (0.116 gms.) is isolated upon evaporation of the filtrate, and is subsequently used without purification in the reaction of Example 362.

reactant | [3-(4-methyl-piperazin-1-yl)-propyl]-(4-nitro-phenyl)-amine | CN1CCN(CC1)CCCNC1=CC=C(C=C1)[N+](=O)[O-] | C14H22N4O2
reactant | hydrazine monohydrate | 0.144 mL | O.NN
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
solvent | water | O | H2O
product | N-[3-(4-Methyl-piperazin-1-yl)-propyl]-benzene-1,4-diamine | 0.116 gms | CN1CCN(CC1)CCCNC1=CC=C(C=C1)N | C14H24N4
